US09233956B2
Step C: 3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-oxazol-4-yl]-2-fluoroaniline
Following a procedure analogous to the procedure described in Intermediate 13 using 2-propen-1-yl {3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-oxazol-4-yl]-2-fluorophenyl}carbamate (1.2 g, 2.78 mmol) and tri-n-butyltin hydride (1.21 g, 4.17 mmol), the title compound was obtained as a yellow solid (530 mg, 55%). MS (ESI): 347 [M+H]+.

reactant | 2-propen-1-yl {3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-oxazol-4-yl]-2-fluorophenyl}carbamate | 2.78 mmol, 1.2 g | ClC1=NC=CC(=N1)C1=C(N=C(O1)C(C)(C)C)C=1C(=C(C=CC1)NC(OCC=C)=O)F | C21H20ClFN4O3
reactant | tri-n-butyltin hydride | 4.17 mmol, 1.21 g | C(CCC)[SnH](CCCC)CCCC
product | 3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-oxazol-4-yl]-2-fluoroaniline | ClC1=NC=CC(=N1)C1=C(N=C(O1)C(C)(C)C)C=1C(=C(N)C=CC1)F | C17H16ClFN4O
